US04983608
6-Chloro-N-(1H-indol-1-yl)-4-pyrimidinamine
To 250 ml isopropanol, was added 4,6-dichloropyrimidine (12 g), 1 ml ethereal -HCl, and 1H-indol-1-amine (15 g). After stirring at 90° C. for seven hours, the mixture was poured into 300 ml iced water, stirred for five minutes, then extracted three times with 200 ml of ethyl acetate. The organic layer was washed with water, then dried (saturated NaCl, anhydrous MgSO4).

reactant | isopropanol | 250 ml | C(C)(C)O | C3H8O
reactant | 4,6-dichloropyrimidine | 12 g | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | HCl | Cl | ClH
reactant | 1H-indol-1-amine | 15 g | N1(C=CC2=CC=CC=C12)N | C8H8N2
solvent | water | 300 ml | O | H2O
product | 6-Chloro-N-(1H-indol-1-yl)-4-pyrimidinamine | ClC1=CC(=NC=N1)NN1C=CC2=CC=CC=C12 | C12H9ClN4
